US07084158B2
1-(3-phenyl-2-propynyl)piperidine
With stirring, a solution of phenylacetylene (10.2 g) in dioxane (10 ml), a solution of piperidine (13.3 g) in dioxane (10 ml) and copper(I) chloride (0.1 g) were added successively to a suspension of paraformaldehyde (3.6 g) in dioxane (10 ml). The mixture was heated under reflux for 6 hours, allowed to cool to 25° C. and acidified using 20% strength hydrochloric acid. The solution was washed with diethyl ether and the aqueous phase was made alkaline using 50% strength aqueous sodium hydroxide solution and extracted with diethyl ether (3×100 ml). The organic phase was dried with magnesium sulfate and concentrated completely. Distillation of the residue under reduced pressure gave an oil (13.0 g) of boiling point 95° C./0.045 mm Hg.

reactant | phenylacetylene | 10.2 g | C1(=CC=CC=C1)C#C | C8H6
reactant | piperidine | 13.3 g | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 3.6 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) chloride | 0.1 g | [Cu]Cl
product | 1-(3-phenyl-2-propynyl)piperidine | 13.0 g | C1(=CC=CC=C1)C#CCN1CCCCC1 | C14H17N
